US04483863
2-(2,4-Dichlorophenyl)-1-(imidazol-2-yl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol
A solution of 3-(2,4-dichlorophenyl)-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butyrimidic acid ethyl ester free base (546 mg), aminoacetaldehyde diethylacetal (234 mg) and acetic acid (210 mg) in tetrahydrofuran (4 ml) was heated under reflux for 2 hours. Hydrochloric acid (4 ml, 5N) was added and the mixture heated to 70° C. for 30 minutes. The mixture was diluted with saturated sodium carbonate to pH8 and extracted with ethyl acetate (3×20 ml). The organic extracts were dried over magnesium sulphate and evaporated to yield a gum which was chromatographed on silica eluting with a mixture of methylene chloride, isopropanol and concentrated ammonium hydroxide (85:15:1 by volume). Fractions containing the desired product were pooled and evaporated to yield a gum which solidified on trituration with diethyl ether (246 mg). Recrystallisation from isopropanol gave the title compound as colourless crystals m.p. 168°-170° C. Found: C,49.8; H,3.9; N,20.9. C14H13Cl2N5O requires C,49.7; H,3.9; N,20.7%.

reactant | 3-(2,4-dichlorophenyl)-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butyrimidic acid ethyl ester | 546 mg | C(C)OC(CC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl)=N | C14H16Cl2N4O2
reactant | aminoacetaldehyde diethylacetal | 234 mg | C(C)OC(CN)OCC | C6H15NO2
reactant | acetic acid | 210 mg | C(C)(=O)O | C2H4O2
reactant | Hydrochloric acid | 5N, 4 ml | Cl | ClH
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | diethyl ether | 246 mg | C(C)OCC | C4H10O
product | 2-(2,4-Dichlorophenyl)-1-(imidazol-2-yl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol | ClC1=C(C=CC(=C1)Cl)C(CC=1NC=CN1)(CN1N=CN=C1)O | C14H13Cl2N5O
